US04470972
Hydrolyze 1.43 g of 7-(N-benzyloxycarbonylglycyl)-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, ethyl ester (prepared as described in paragraph B next above) with sodium hydroxide as described in Example 1D to obtain 7-(N-benzyloxycarbonylglycyl)-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, a colorless oil, [α]D26 -7.9° (ethanol).

reactant | 7-(N-benzyloxycarbonylglycyl)-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid, ethyl ester | 1.43 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1CC2(SCCS2)C[C@H]1C(=O)OCC | C19H24N2O5S2
reactant | sodium hydroxide | [OH-].[Na+]
product | 7-(N-benzyloxycarbonylglycyl)-1,4-dithia-7-azaspiro[4.4]nonane-8(S)-carboxylic acid | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1CC2(SCCS2)C[C@H]1C(=O)O | C17H20N2O5S2
